US08242145B2
Step 1: {3-[4-(2,2-Dimethyl-propionylamino)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
To a solution of {3-[4-amino-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester (0.220 g, 0.57 mmol) and triethylamine (0.12 mL, 0.86 mmol) in CH2Cl2 was added trimethylacetyl chloride (0.11 mL, 0.86 mmol), and the reaction was stirred for 1 hour at room temperature. The mixture was concentrated to give the title compound.

reactant | {3-[4-amino-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | 0.57 mmol, 0.220 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CN1C(OCC1)=O)=O | C21H24N2O6
reactant | triethylamine | 0.86 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 0.86 mmol, 0.11 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {3-[4-(2,2-Dimethyl-propionylamino)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CN1C(OCC1)=O)=O | C26H32N2O7
